US04058550
A 13.4 g. of 2,4-dihydroxy-3-hydroxymethylpentane solution in dimethoxyethane is added to 2.4 g. of sodium hydride (washed free of mineral oil). After hydrogen evolution ceased, 12.65 g. of benzyl chloride is added and the mixture refluxed for 4 hours. After cooling to 10° C., 24.4 g. of 4-dimethylaminopyridine and 41.6 g. of 4-(n-hexadecylamino)benzoyl chloride hydrochloride are added. Chloroform and water are added after 16 hours and the chloroform extract is dried and evaporated to dryness. The residue is dissolved in acetic acid and hydrogenated at 30 psi hydrogen pressure over palladium block. After filtration and dilution with water, the 4-hydroxy-3-hydroxymethyl-2-pentyl 4-(n-hexadecylamino)benzoate is obtained as a white solid.

reactant | 2,4-dihydroxy-3-hydroxymethylpentane | OC(C)C(C(C)O)CO | C6H14O3
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | 4-(n-hexadecylamino)benzoyl chloride hydrochloride | Cl.C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)Cl)C=C1
solvent | dimethoxyethane | C(OC)COC | C4H10O2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | O | H2O
solvent | Chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-hydroxy-3-hydroxymethyl-2-pentyl 4-(n-hexadecylamino)benzoate | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)OC(C)C(C(C)O)CO)C=C1 | C29H51NO4
